US07332508B2
1-(1-Ethylpropyl)-4-(4-{3-[1-(1-ethylpropyl)piperidin-4-ylmethyl][1,2,4]oxadiazol-5-yl}-benzyl)piperazine, Trihydrochloride
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-(chloromethyl)phenyl)-[1,2,4]oxadiazol-3-ylmethyl]-1-(1-ethylpropyl)piperidine and 1-(1-ethylpropyl)piperazine. HPLC: Rt=6.50 min.

reactant | 4-[5-(4-(chloromethyl)phenyl)-[1,2,4]oxadiazol-3-ylmethyl]-1-(1-ethylpropyl)piperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C(CC)CC | C20H28ClN3O
reactant | 1-(1-ethylpropyl)piperazine | C(C)C(CC)N1CCNCC1 | C9H20N2
product | 1-(1-Ethylpropyl)-4-(4-{3-[1-(1-ethylpropyl)piperidin-4-ylmethyl][1,2,4]oxadiazol-5-yl}-benzyl)piperazine, Trihydrochloride | Cl.Cl.Cl.C(C)C(CC)N1CCN(CC1)CC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C(CC)CC | InChI=1S/C29H47N5O.3ClH/c1-5-26(6-2)33-15-13-23(14-16-33)21-28-30-29(35-31-28)25-11-9-24(10-12-25)22-32-17-19-34(20-18-32)27(7-3)8-4;;;/h9-12,23,26-27H,5-8,13-22H2,1-4H3;3*1H
